US06136810
Chlorosulfonyl isocyanate (0.8 ml, 9 mmol) was added to a tetrahydrofuran (50 ml) solution of 3-(3-chlorobenzoyl)-6-ethyl-2-ethylaminopyridine (2.6 g, 9 mmol) under ice-cooling, followed by stirring for 1 hour under ice-cooling. To the reaction solution were added water and saturated sodium bicarbonate aqueous solution in that order, followed by 30 minutes of stirring at room temperature. This was adjusted to pH 10 with 1 N sodium hydroxide aqueous solution and extracted with chloroform. After drying the organic layer over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and the resulting filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 4-(3-chlorophenyl)-1,7-diethylpyrido[2,3-d]pyrimidin-2(1H)-one (1.7 g, 60%) in the form of crystals.

reactant | Chlorosulfonyl isocyanate | 9 mmol, 0.8 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 3-(3-chlorobenzoyl)-6-ethyl-2-ethylaminopyridine | 9 mmol, 2.6 g | ClC=1C=C(C(=O)C=2C(=NC(=CC2)CC)NCC)C=CC1 | C16H17ClN2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(3-chlorophenyl)-1,7-diethylpyrido[2,3-d]pyrimidin-2(1H)-one | 1.7 g, 60% | ClC=1C=C(C=CC1)C=1C2=C(N(C(N1)=O)CC)N=C(C=C2)CC | C17H16ClN3O
